US07612114B2
Synthesized from 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine and 4-(2-diisopropylaminoethoxy)-3-fluorobenzoic acid hydrochloride according to an analogous synthetic method to Example 152, [4-(2-diisopropylaminoethoxy)-3-fluorobenzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (459 mg) was used according to an analogous synthetic method to Example 36 to provide [4-(2-diisopropylaminoethoxy)-3-fluorobenzyl]ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (429 mg). This compound (427 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (303 mg).

reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1)OC | C18H21NO2
reactant | 4-(2-diisopropylaminoethoxy)-3-fluorobenzoic acid hydrochloride | Cl.C(C)(C)N(CCOC1=C(C=C(C(=O)O)C=C1)F)C(C)C
reactant | [4-(2-diisopropylaminoethoxy)-3-fluorobenzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 459 mg | C(C)(C)N(CCOC1=C(C=C(CNC2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)OC)C=C1)F)C(C)C | C33H43FN2O3
product | [4-(2-diisopropylaminoethoxy)-3-fluorobenzyl]ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 429 mg | C(C)(C)N(CCOC1=C(C=C(CN(C2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)OC)CC)C=C1)F)C(C)C | C35H47FN2O3
